US05670514
(+)-(4aR)-(10bR)-4-methyl-8-(3-[pivaloylamino]phenyl)-10methyl-1,2,3,4,4a,5,6,10b-octahydrobenzo[f]quinolin-3-one
A 15 mL round bottom flask was charged with (+)-(4aR)-(10bR)-4-methyl-8-(3-aminophenyl)-10b-methyl 1,2,3,4,4a,-5,6,10b octahydrobenzo[f]quinolin-3-one (31 mg, 0.097 mmol), N,N-dimethylaminopyridine (3 mg, 0.024 mmol), 1 mL of pyridine and 0.5 mL of dichloromethane. The solution was cooled to 0°, and excess pivaloyl chloride (0.086 mL, 0.69 mmol) was added. The stirred mixture was allowed to warm to room temperature over 2 h. The mixture was diluted with chloroform, and washed with 5% aqueous hydrochloric acid solution, water, 5% aqueous sodium hydroxide solution, water, and the combined organic extracts were dried over sodium sulfate, concentrated and chromatographed on silica gel (ethyl acetate eluent) to give 25 mg (64%) of the title compound as a yellow solid. mp 95°-98°. FDMS m/e=404. α[D]589 =+62.50 (c=0.16, chloroform).

reactant | (+)-(4aR)-(10bR)-4-methyl-8-(3-aminophenyl)-10b-methyl 1,2,3,4,4a,-5,6,10b octahydrobenzo[f]quinolin-3-one | 0.097 mmol, 31 mg | CN1C(CC[C@@]2(C3=C(CC[C@@H]12)C=C(C=C3)C3=CC(=CC=C3)N)C)=O | C21H24N2O
reactant | pyridine | 1 mL | N1=CC=CC=C1 | C5H5N
reactant | dichloromethane | 0.5 mL | ClCCl | CH2Cl2
reactant | pivaloyl chloride | 0.69 mmol, 0.086 mL | C(C(C)(C)C)(=O)Cl | C5H9ClO
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | (+)-(4aR)-(10bR)-4-methyl-8-(3-[pivaloylamino]phenyl)-10methyl-1,2,3,4,4a,5,6,10b-octahydrobenzo[f]quinolin-3-one | 25 mg, 64% | CN1C(CC[C@@H]2C3=C(CC[C@@H]12)C=C(C=C3C)C3=CC(=CC=C3)NC(C(C)(C)C)=O)=O | C26H32N2O2
